Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Wellbutrin SR
 
Attending: ___.
 
Chief Complaint:
Menometrorrhagia
 
Major Surgical or Invasive Procedure:
total laparoscopic hysterectomy, bilateral salpingectomy, 
mini-laparotomy, cystoscopy, primary bladder repair

 
History of Present Illness:
___ yo G0 with h/o menometrorrhagia secondary to fibroid uterus 
now scheduled for total laparoscopic hysterectomy and bilateral 
salpingectomy presents for routine pre-operative visit. Patient 
s/p recent hysteroscopy D+C which was notable for myometrial 
fibroids (5.5cm) and proliferative endometrium with chronic 
endometritis. Patient was  informed of abnormally shaped uterine 
cavity, no polyp and instead found proliferative/chronic 
endometrisitis. She was counseled on options and she has elected
definitive surgical management with total laparoscopic 
hysterectomy. She presents without complaints today.

 
Past Medical History:
POBH: G0  

PGynH:
Menarche: ___ yo
Interval: monthly
Length: ___ days
Flow: varied
Dysmenorrhea: first 2 days. Uses Advil with relief.
Date of last pap: ___ normal                     
H/O Abnormal paps: No
Date of last mammogram:  n/a             
H/O breast disease or surgery: None
H/O fibroids: Yes. 
H/O Ovarian cysts: Denies
Sexual Partner: No. Virginal
H/O STD's: No
Sexual/Domestic abuse: Molested as a child. Did not attend
therapy ___

PMH:
-HTN
-GERD
-Depression/Anxiety
-Nerve damage to ear
-IBS
-Cholesterol

PSH:
- Carpal tunnel
- Hysteroscopy, D&C
 
Social History:
___
Family History:
FH:
Diabetes: Grandmother
CAD: ___
HTN: uncle, grandmother
___
Breast CA: Denies
Gyn CA: Denies
Other CA: melanoma. mother
___
 
Physical Exam:
Discharge physical exam
Vitals: VSS
Gen: NAD, A&O x 3
CV: RRR
Resp: no acute respiratory distress
Abd: soft, appropriately tender, no rebound/guarding, incision 
c/d/i
Pelvis: foley in place 
Ext: no TTP
 
Brief Hospital Course:
On ___, Ms. ___ was admitted to the gynecology service 
after undergoing a total laparoscopic hysterectomy, bilateral 
salpingectomy, mini-laparotomy, cystoscopy, primary bladder 
repair. Please see the operative report for full details.

Immediately post-op, her pain was controlled with IV 
Dilaudid/Toradol .

Her post-operative course was complicated by transient hypoxia 
with an overnight oxygen saturation down to 85% that improved 
with 2L of oxygen during which time she became intermittently 
tachycardic to 100. EKG showed T wave inversion. Troponins and 
CK-MB were negative. CXR showed preliminary R>L atelectasis vs 
consolidation. She was afebrile with no signs of pneumonia on 
physical exam making infection less likely. 

She continued to endorse mild SOB and had one day time drop in 
oxygen saturation to 91%. CTA was ordered which showed no 
evidence of pulmonary embolism or aortic abnormality.

Subsequently her vital signs stabilized with HR 70-80s and 
oxygen saturation >95%. The overnight drop in oxygen saturation 
was likely secondary to atelectasis possibly with superimposed 
on undiagnosed obstructive sleep apnea. 

JP drain was pulled due to minimal output. She was discharged 
home with a Foley catheter and instructed in its care with plan 
to remove during her follow-up appointment. Outpatient cystogram 
was scheduled. She was given one tablet of Bactrim DS to take on 
the day of the cystogram. Her diet was advanced without 
difficulty and she was transitioned to 
oxycodone/ibuprofen/acetaminophen (pain meds).

By post-operative day 3, she was tolerating a regular diet, 
ambulating independently, and pain was controlled with oral 
medications. She was then discharged home in stable condition 
with outpatient follow-up scheduled.
 
Medications on Admission:
Medications (Last Review: ___ by ___,
MD):
Active Medication list as of ___:
 
Medications - Prescription
KETOCONAZOLE - ketoconazole 2 % shampoo. wash scalp daily -  
(Not
Taking as Prescribed)
LORAZEPAM - lorazepam 1 mg tablet. 1 tablet(s) by mouth twice a
day as needed for anxiety
METFORMIN - metformin ER 500 mg tablet,extended release 24 hr. 1
tablet(s) by mouth bid with lunch and dinner
METOPROLOL SUCCINATE - metoprolol succinate ER 200 mg
tablet,extended release 24 hr. 1 tablet(s) by mouth once a day
NORTRIPTYLINE - nortriptyline 75 mg capsule. 1 capsule(s) by
mouth at bedtime
PANTOPRAZOLE - pantoprazole 40 mg tablet,delayed release. 1 
(One)
tablet(s) by mouth in am -  (Prescribed by Other Provider; Dose
adjustment - no new Rx)
SIMVASTATIN [ZOCOR] - Zocor 20 mg tablet. 1 tablet(s) by mouth
once a day
TRIAMTERENE-HYDROCHLOROTHIAZID - triamterene 37.5
mg-hydrochlorothiazide 25 mg capsule. 1 capsule(s) by mouth once
a day
 
Medications - OTC
BIFIDOBACTERIUM INFANTIS [ALIGN] - Align 4 mg capsule. 1 (One)
capsule(s) by mouth once a week -  (OTC)
NICOTINE - nicotine 7 mg/24 hr daily transdermal patch. one 
patch
to skin daily -  (Not Taking as Prescribed)
 
Discharge Medications:
1. Metoprolol Succinate XL 200 mg PO DAILY 
2. Nortriptyline 75 mg PO QHS 
3. Pantoprazole 40 mg PO Q12H 
4. Simvastatin 20 mg PO QPM 
5. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
don't drink alcohol or drive with this medication 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hrs Disp #*40 
Tablet Refills:*0
6. Ibuprofen 600 mg PO Q6H:PRN Pain - Moderate 
take with food, no more than 2400mg in 24hrs 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hrs Disp #*40 
Tablet Refills:*0
7. Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 capsule(s) by mouth twice a day 
Disp #*60 Capsule Refills:*1
8. Acetaminophen ___ mg PO Q6H:PRN Pain - Mild 
no more than 4g in 24hrs 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every 6 hrs Disp 
#*50 Tablet Refills:*0
9. Sulfameth/Trimethoprim DS 1 TAB PO ONCE Duration: 1 Dose 
Take it in the morning on ___ before your procedure. 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 1 
tablet(s) by mouth once Disp #*1 Tablet Refills:*0
10. Hydrochlorothiazide 25 mg PO ONCE Duration: 1 Dose 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Fibroid Uterus

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service after your 
procedure. You will be going home with a foley catheter, and you 
will be scheduled for a cystogram on ___. Please take the pill 
of Bactrim in the morning on ___ the day before your 
cystogram.  In addition, you have recovered well and the team 
believes you are ready to be discharged home. Please call Dr. 
___ office with any questions or concerns. Please follow 
the instructions below.

General instructions:
* Take your medications as prescribed.
* Do not drive while taking narcotics.
* Take a stool softener such as colace while taking narcotics to 
prevent constipation.
* Do not combine narcotic and sedative medications or alcohol.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* No strenuous activity until your post-op appointment.
* Nothing in the vagina (no tampons, no douching, no sex) for 3 
months.
* No heavy lifting of objects >10 lbs for 6 weeks.
* You may eat a regular diet.
* You may walk up and down stairs.

Incision care:
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No tub baths for 6 weeks.
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.

Call your doctor for:
* fever > 100.4F
* severe abdominal pain
* difficulty urinating
* vaginal bleeding requiring >1 pad/hr
* abnormal vaginal discharge
* redness or drainage from incision
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___